US06420426B1
A suspension of 4-fluoro-2-methoxy-5-methyl-phenylamine (25.75 g, 0.17 mol) in 180 mL of HBr (48%, 0.9 M) in an ice bath was treated dropwise with an aq solution of sodium nitrite (12.6 g, 0.18 mol, 3.6 M). A brown gas was evolved and the temperature of the reaction was monitored so that the internal temperature did not raise above 10° C. In the meantime, a suspension of CuBr (13.1 g, 0.09 mol) in 6.5 mL of HBr (48%, 13.9 M) was heated to 110° C. Next, the solution at 0° C. was slowly poured (over a period of 20 minutes) into the stirring CuBr suspension. The combined reaction mixture was heated for 2.5 h at 110° C. After cooling to room temperature, the solution was diluted with ethyl acetate and treated with aq sulfuric acid ( 50% v/v). The organic layer was separated and was washed successively with water, sulfuric acid, water, 1.25 M NaOH, water, and saturated aq NaCl. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting brown oil was purified via silica gel flash chromatography (5% ethyl acetate in heptane) to afford 1-bromo-4-fluoro-2-methoxy-5-methyl-benzene (17.1 g, 47%) as a clear liquid: Rf 0.70 (30% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz) δ 7.34 (d, J=8.4 Hz, 1H), 6.61 (d, J=10.8 Hz, 1H), 3.85 (s, 3H), 2.18 (d, J=1.8 Hz, 3H); Anal. calcd for C8H8BrFO: C, 43.86. ; H, 3.68; Br, 36.48. Found C, 44.01; H, 3.68; Br, 36.57.

reactant | 4-fluoro-2-methoxy-5-methyl-phenylamine | 0.17 mol, 25.75 g | FC1=CC(=C(C=C1C)N)OC | C8H10FNO
reactant | sodium nitrite | 0.18 mol, 3.6 M, 12.6 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | HBr | 0.9 M, 180 mL | Br | BrH
reactant | HBr | 13.9 M, 6.5 mL | Br | BrH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-bromo-4-fluoro-2-methoxy-5-methyl-benzene | 17.1 g, 47% | BrC1=C(C=C(C(=C1)C)F)OC | C8H8BrFO
